US06992087B2
(1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
A solution of 3-chloro-2,5-diethylpyrazine (171 mg, 1.0 mmol), (1R,2S)-(+)-cis-1-amino-2-indanol (298 mg, 2.0 mmol), tris(dibenzylideneacetone)dipalladium (0) (28 mg, 0.03 mmol), and 2-(di-tertbutylphosphino)biphenyl (18 mg, 0.06 mmol) in toluene (2.0 mL) was purged with nitrogen and treated with sodium tertbutoxide (135 mg, 1.4 mmol). The resulting brown suspension was heated to 100° C. for 2 hours. At this time, the reaction was quenched with a saturated water solution of NaHCO3 and extracted twice with ethyl acetate (20 mL). The combined organics were washed with brine (15 mL), dried over MgSO4, filtered, and concentrated to give a black solid. This material was purified by biotage MPLC (40 g column, 25% ethyl acetate/heptane) to afford 184 mg (65%) of the title compound as a light purple solid. IR (diffuse reflectance) 3435, 3241, 2962, 2935, 2912, 2873, 1581, 1547, 1500, 1453, 1184, 1163, 1047, 744, 733 cm−1; OAMS supporting ions at: ESI+ 384.0; MS (CI) m/z 284 (MH+); HRMS (FAB) calcd for C17H21N3O+H1 284.1763, found 284.1754. [α]25D=12 (c 0.55, methylene chloride); Anal. Calcd for C17H21N3O: C, 72.06; H, 7.47; N, 14.83. Found: C, 72.15; H, 7.53; N, 14.42.

reactant | 3-chloro-2,5-diethylpyrazine | 1.0 mmol, 171 mg | ClC=1C(=NC=C(N1)CC)CC | C8H11ClN2
reactant | (1R,2S)-(+)-cis-1-amino-2-indanol | 2.0 mmol, 298 mg | C1[C@@H]([C@@H](C2=CC=CC=C21)N)O | C9H11NO
reactant | sodium tertbutoxide | 1.4 mmol, 135 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.03 mmol, 28 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-(di-tertbutylphosphino)biphenyl | 0.06 mmol, 18 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | 184 mg, 65% | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
